US08633186B2
2-Bromo-3-fluoro-6-nitrobenzoic acid
In a 1 L, three necked flask fitted with a dropping funnel and a thermometer were charged 2-bromo-3-fluorobenzoic acid (Example 134 g) (28.23 g, 0.13 mol) and concentrated H2SO4 (200 mL). After cooling to 0° C., HNO3 (70%, 16.0 mL) was added dropwise over 30 min, keeping the temperature between 0 to 10° C. After 1 h, the reaction mixture was poured into the crushed ice keeping the temperature below 20° C. The mixture was extracted with EtOAc (2×200 mL), the combined extract was washed with brine and dried with MgSO4. The filtrate was evaporated to give 27.27 g (77%) of a mixture of 2-bromo-3-fluoro-6-nitrobenzoic acid and 2-bromo-3-fluoro-5-nitrobenzoic acid (1:0.4) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ 8.33 (dd, J=9.6, 4.8 Hz, 1H), 7.21 (dd, J=10.0, 8.0 Hz, 1H).

reactant | 2-bromo-3-fluorobenzoic acid | 0.13 mol, 134 g | BrC1=C(C(=O)O)C=CC=C1F | C7H4BrFO2
reactant | HNO3 | 16.0 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 200 mL | OS(=O)(=O)O | H2O4S
product | 2-Bromo-3-fluoro-6-nitrobenzoic acid | 27.27 g, 77% | BrC1=C(C(=O)O)C(=CC=C1F)[N+](=O)[O-] | C7H3BrFNO4
